US05925676
To a solution mixture of 5 g of (RS)-4-oxo-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether prepared according to the method described in Org. Syn., Vol. 73, p. 36 and 75 ml of tetrahydrofuran was added under nitrogen stream and at -78° C. 23.5 ml of lithium tri-sec-butyl borohydride and the resulting mixture was stirred for 1.5 hours. Then 8.41 g of N-phenyltrifluoromethane-sulfonimide was added thereto and stirred for 18 hours. The reaction liquid obtained was after-treated and purified in the same manner as in (1) of the intermediate preparation example 1 to obtain 5.5 g of 3-trifluoromethanesulfonyloxy-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether. Yield 68%

reactant | (RS)-4-oxo-2-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 5 g | [Si](C)(C)(C(C)(C)C)OC1C=CC(C1)=O | C11H20O2Si
reactant | lithium tri-sec-butyl borohydride | 23.5 ml | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | N-phenyltrifluoromethane-sulfonimide | 8.41 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-trifluoromethanesulfonyloxy-3-cyclopenten-1-yl (t-butyldimethylsilyl) ether | 5.5 g, Yield 68% | [Si](C)(C)(C(C)(C)C)OC1CC(=CC1)OS(=O)(=O)C(F)(F)F | C12H21F3O4SSi
